US08110687B2
To a solution of 2-chloro-4-nitropyridine 1-oxide (2.00 g, 11.4 mmol) and 1-(trimethylsilyl)-1H-1,2,4-triazole (1.64 mL, 11.4 mmol) in DMF (40 mL), was added potassium carbonate (4.75 g, 34.4 mmol). The reaction mixture was allowed to stir at rt for 2 h. The DMF was evaporated and water was added. The precipitate was filtered and washed with water then hexane and dried under vacuum. The solid was purified by column to give 4-nitro-2-(1H-1,2,4-triazol-1-yl)pyridine 1-oxide (0.643 g, 27.1%) as a pale yellow solid. LCMS: (FA) ES+ 208.1, ES− 206.1.

reactant | 2-chloro-4-nitropyridine 1-oxide | 11.4 mmol, 2.00 g | ClC1=[N+](C=CC(=C1)[N+](=O)[O-])[O-] | C5H3ClN2O3
reactant | 1-(trimethylsilyl)-1H-1,2,4-triazole | 11.4 mmol, 1.64 mL | C[Si](N1N=CN=C1)(C)C | C5H11N3Si
reactant | potassium carbonate | 34.4 mmol, 4.75 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 4-nitro-2-(1H-1,2,4-triazol-1-yl)pyridine 1-oxide | 0.643 g, 27.1% | [N+](=O)([O-])C1=CC(=[N+](C=C1)[O-])N1N=CN=C1 | C7H5N5O3
